* C:\Users\ruseler\Documents\GitHub\AOS-QUIZES\TE02\LTspice\COMB02op.asc
Vcc A 0 {Vcc}
R1 A B {R1}
R2 D B {R2}
D1 0 B DZ1
D2 0 D DZ2
D3 C D LED
R3 C A {R3}
.model D D
.lib C:\Users\ruseler\Documents\LTspiceXVII\lib\cmp\standard.dio
.op
.param Vcc=2.500e+01 R1=1.200e+02 R2=1.200e+02  R3=1.200e+02
.model DZ1 D(Is=1.000e-14 n=1.200e+00 bv=3)
.model DZ2 D(Is=2.000e-14 n=2.000e+00 bv=3)
.meas vz1 param -v(B)
.meas vz2 param -v(D)
.model LED D(Is=2.000e-14 n=2.000e+00)
.meas vled param v(C)-v(D)
.meas pled param vled*I(D3)
.backanno
.end
