* C:\Users\ruseler\Documents\GitHub\AOS-QUIZES\TE02\LTspice\COMB03op.asc
Vcc A 0 {Vcc}
R1 B A {R1}
R2 C B {R2}
D1 0 B DZ1
D2 0 C DZ2
R3 0 C {R3}
.model D D
.lib C:\Users\ruseler\Documents\LTspiceXVII\lib\cmp\standard.dio
.op
.param Vcc=2.500e+01 R1=1.200e+02 R2=1.200e+02  R3=1.200e+02 T1=65
.model DZ1 D(Is=1.000e-14 n=1.200e+00 bv=3)
.model DZ2 D(Is=2.000e-14 n=2.000e+00 bv=3)
.meas vz1 param -v(B)
.meas vz2 param -v(C)
.temp {T1}
.meas pf param -v(A)*I(Vcc)
.backanno
.end
