* C:\Users\ruseler\Documents\GitHub\AOS-QUIZES\TE11\LTspice\CompHisterese.asc
V1 Vpp 0 {Vs}
V2 0 Vnn {Vs}
RL Vo 0 100k
R2 Vo comp {R2}
R1 comp 0 {R1}
XU1 comp N001 Vpp Vnn Vo level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
C1 N001 0 {C0}
R3 N001 Vo {R0}
.param Vs=1.500e+01 R1=7.500e+03 R2=2.200e+03 R0=6.800e+03 C0=1.300e-08
.meas Vx MAX V(comp)
.meas Vy MIN V(comp)
.meas tran T1 find time when V(vo)=0 rise 2
.meas tran T2 find time when V(vo)=0 rise 3
.meas tran  fosc param 1/(T2-T1)
.tran 5m uic
.lib UniversalOpAmp2.lib
.backanno
.end
