* C:\Users\ruseler\Documents\GitHub\AOS-QUIZES\TE02\LTspice\DIODEMODEL02op.asc
Vcc i 0 {Vcc}
R0 o 0 {R0}
D0 i o D0
.model D D
.lib C:\Users\ruseler\Documents\LTspiceXVII\lib\cmp\standard.dio
.op
.param Vcc=2.500e+01 R0=1.200e+02 Td=50 func1=26m
.model D0 D(Is=1.000e-14 n=1.200e+00)
.meas Von PARAM v(i)-v(o) - func1
.backanno
.end
