* C:\Users\ruseler\Documents\GitHub\AOS-QUIZES\TE07\LTspice\FET09op.asc
Rg g N002 {Rg}
Vdd N001 0 {Vdd}
Rd N001 N002 {Rd}
M1 N002 g 0 0 MOSFET
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\ruseler\AppData\Local\LTspice\lib\cmp\standard.mos
.op
.model MOSFET pmos(Kp=1m Vto=-4)
.param Vdd=-50 Rd=330 Rg=1Meg
.backanno
.end
