* C:\Users\ruseler\Documents\GitHub\AOS-QUIZES\TE10\LTspice\Filter03.asc
V1 Vpp 0 {Vs}
V2 0 Vnn {Vs}
RL o 0 {RL}
V3 i 0 AC 1.
XU1 0 N001 Vpp Vnn o level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
C1 N001 N002 {C1}
R1 N002 i {R1}
R2 o N001 {R2}
C2 o N001 {C2}
.param Vs=15 Vi=5 R1=1k R2=3.3k C1=10u C2=10n RL=100k
;tran 0.001 0.005 0
.ac dec 10 1 1000k
.lib UniversalOpAmp2.lib
.backanno
.end
