* C:\Users\ruseler\Documents\GitHub\AOS-QUIZES\TE10\LTspice\Filter06.asc
V1 Vpp 0 {Vs}
V2 0 Vnn {Vs}
RL o 0 {RL}
V3 i 0 AC 1.
XU1 N001 N003 Vpp Vnn o level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
C2 0 N001 {C2}
R1 N001 N002 {R1}
R2 0 N001 {R2}
R3 N003 o {R2}
C3 N003 o {C2}
R4 N004 N003 {R1}
C1 N002 i {C1}
C4 0 N004 {C1}
.param Vs=15 Vi=5 R1=1k R2=2k C1=1u C2=2u RL=100k
;tran 0.001 0.005 0
.ac dec 10 1 100k
.lib UniversalOpAmp2.lib
.backanno
.end
