* C:\Users\ruseler\Documents\GitHub\AOS-QUIZES\TE11\LTspice\NE55501.asc
XU1 0 N003 out N001 NC_01 N003 N002 N001 NE555
RA N001 N002 {RA}
RB N002 N003 {RB}
Vcc N001 0 {Vcc}
C1 N003 0 {CA}
RL N001 out {RL}
.param Vcc=15 RA=5k RB=3k RL=1k CA=0.15u
.tran 0.01
.meas tran Tr1 find time when V(out)=Vcc/2 rise 2
.meas tran Tf1 find time when V(out)=Vcc/2 fall 3
.meas tran Tr2 find time when V(out)=Vcc/2 rise 3
.meas tran th param Tf1-Tr1
.meas tran tl param Tr2-Tf1
.meas tran fosc param 1/(th+tl)
.meas tran duty param 100*th/(th+tl)
.lib NE555.sub
.backanno
.end
