* C:\Users\ruseler\Documents\GitHub\AOS-QUIZES\TE00\LTspice\RLC.asc
C0 x 0 {C0}
R0 x 0 {R0}
L0 i x {L0}
Vi i 0 SINE(0 {Vipk} {fi})
.param Vipk=100 fi=60 L0=16m C0=150u R0=2.7
.tran 0 0.1667 0.01667
.meas vl0rms RMS V(i)-V(x)
.meas il0rms RMS I(L0)
.meas virms RMS V(i)
.meas z0 param virms/il0rms
.meas p0 AVG V(i)*I(L0)
.meas si param virms*il0rms
.meas fp param p0/si
.backanno
.end
