* C:\Users\ruseler\Documents\GitHub\AOS-QUIZES\TE06\LTspice\CA\TBJ01CA.asc
Rb cc B {Rb}
Rc cc C {Rc}
Vcc cc 0 {Vcc}
Q1 C B 0 0 TBJ
Ci B CAin {Cx}
Co CAout C {Cx}
Vca CAin 0 SINE(0 0.01m 10k)
RL CAout 0 10Meg
Rb1 N001 N003 {Rb}
Rc1 N001 N002 {Rc}
Vcc1 N001 0 {Vcc}
Q2 N002 N003 0 0 TBJ
Ci1 N003 0 {Cx}
Co1 CAout2 N002 {Cx}
Vca1 CAout2 0 SINE(0 0.1m 10k)
.model NPN NPN
.model PNP PNP
.lib C:\Users\ruseler\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 0.001 0
.param Vcc=1.500e+01 Rb=1.200e+04 Rc=5.600e+02 Cx=1.000e-04
.model TBJ NPN(IS=1.000e-14 BF=1.250e+02 VAF=5.000e+01)
.meas Vipp PP V(CAin)
.meas Iipp PP I(Ci)
.meas Zi param Vipp/Iipp
.meas Vopp PP V(CAout)
.meas Av param -Vopp/Vipp
.meas Vopp2 PP V(CAout2)
.meas Iopp2 PP I(Co1)
.meas Zo param Vopp2/Iopp2
.meas Virms RMS V(CAin)
.meas Iirms RMS I(Ci)
.meas Zirms param Virms/Iirms
.meas Vorms RMS V(CAout)
.meas Avrms param -Vorms/Virms
.meas Vorms2 RMS V(CAout2)
.meas Iorms2 RMS I(Co1)
.meas Zorms param Vorms2/Iorms2
.meas re param Rpiq1tbj/BetaDCq1tbj
.meas zocalc param Roq1tbj*Rc/(Roq1tbj+Rc)
.meas zicalc param Rb*BetaDCq1tbj*re/(Rb+BetaDCq1tbj*re)
.meas avcalc param -zocalc/re
.backanno
.end
