* C:\Users\ruseler\Documents\GitHub\AOS-QUIZES\TE06\LTspice\CA\TBJ03CA.asc
RB cc N001 {RB}
Vcc cc 0 {Vcc}
Q1 cc N001 N002 0 TBJ
Ci N001 CAin {Cx}
Co CAout N002 {Cx}
Vca CAin 0 SINE(0 0.1m 10k)
RL CAout 0 1Meg
RE N002 0 {RE}
RB1 N003 N004 {RB}
Vcc1 N003 0 {Vcc}
Q2 N003 N004 N005 0 TBJ
Ci1 N004 0 {Cx}
Co1 CAout2 N005 {Cx}
Vca1 CAout2 0 SINE(0 0.1m 10k)
RE1 N005 0 {RE}
.model NPN NPN
.model PNP PNP
.lib C:\Users\ruseler\Documents\LTspiceXVII\lib\cmp\standard.bjt
.meas Vipp PP V(CAin)
.meas Iipp PP I(Ci)
.meas Zi param Vipp/Iipp
.meas Vopp PP V(CAout)
.meas Av param Vopp/Vipp
.meas Vopp2 PP V(CAout2)
.meas Iopp2 PP I(Co1)
.meas Zo param Vopp2/Iopp2
.tran 0 0.01 0
.param Vcc=2.500e+01 Rb=4.700e+05 Re=8.200e+02 Cx=1.000e-04
.model TBJ NPN(IS=1.500e-14 BF=1.250e+02 VAF=5.000e+01)
.meas Vorms RMS V(CAout)
.meas Virms RMS V(CAin)
.meas Iirms RMS I(Ci)
.meas Zi2 param Virms/Iirms
.meas Vorms2 RMS V(CAout2)
.meas Iorms2 RMS I(Co1)
.meas Zo2 param Vorms2/iorms2
.meas Av2 param Vorms/Virms
.meas ree param Rpiq1tbj/BetaDCq1tbj
.meas avsimp param rx/(rx+ree)
.meas avcalc param rx*(BetaDCq1tbj+1)/(rx*(BetaDCq1tbj+1)+ree*BetaDCq1tbj)
.meas zosimp param rx*ree/(rx+ree)
.meas zocalc param rx*ree*BetaDCq1tbj/(rx*(BetaDCq1tbj+1)+ree*BetaDCq1tbj)
.meas zisimp param Rb*(rx+ree)/(Rb/BetaDCq1tbj+rx+ree)
.meas zicalc param Rb*(rx*(BetaDCq1tbj+1)+ree*BetaDCq1tbj)/(Rb+rx*(BetaDCq1tbj+1)+ree*BetaDCq1tbj)
.meas rx param Re*Roq1tbj/(Re+Roq1tbj)
.backanno
.end
