* C:\Users\ruseler\Documents\GitHub\AOS-QUIZES\TE06\LTspice\CC\TBJ02CAop.asc
Rb cc B {RB}
Rc cc C {RC}
Vcc cc 0 {Vcc}
Q1 C B P001 0 TBJ
RE P001 0 {RE}
.model NPN NPN
.model PNP PNP
.lib C:\Users\ruseler\Documents\LTspiceXVII\lib\cmp\standard.bjt
.param Vcc=30 RB=820k RC=680 RE=220
.op
.model TBJ NPN(IS=10F BF=350 VAF=100)
.backanno
.end
