* C:\Users\ruseler\Documents\GitHub\AOS-QUIZES\TE06\LTspice\CC\TBJPNP03CAop.asc
Rb B 0 {RB}
Vcc cc 0 {Vcc}
RE cc N001 {RE}
Q1 0 B N001 0 TBJ
.model NPN NPN
.model PNP PNP
.lib C:\Users\ruseler\Documents\LTspiceXVII\lib\cmp\standard.bjt
.param Vcc=30 RB=820k RE=220
.op
.model TBJ PNP(IS=10F BF=350 VAF=100)
.backanno
.end
