* C:\Users\ruseler\Documents\GitHub\AOS-QUIZES\TE06\LTspice\CC\TBJPNP04CAop.asc
RF B C {RF}
RC C 0 {RC}
Vcc cc 0 {Vcc}
Q1 C B cc 0 TBJ
.model NPN NPN
.model PNP PNP
.lib C:\Users\ruseler\Documents\LTspiceXVII\lib\cmp\standard.bjt
.param Vcc=30 RF=820k RC=680
.op
.model TBJ PNP(IS=10F BF=350 VAF=100)
.backanno
.end
