* C:\Users\ruseler\Documents\GitHub\AOS-QUIZES\TE06\LTspice\CC\TBJPNP05CAop.asc
R1 B 0 {R1}
Rc C 0 {RC}
Vcc cc 0 {Vcc}
RE cc N001 {RE}
R2 cc B {R2}
Q1 C B N001 0 TBJ
.model NPN NPN
.model PNP PNP
.lib C:\Users\ruseler\Documents\LTspiceXVII\lib\cmp\standard.bjt
.param Vcc=30 R1=820k R2=560k RC=680 RE=220
.op
.model TBJ PNP(IS=10F BF=350 VAF=100)
.backanno
.end
