* C:\Users\ruseler\Documents\GitHub\AOS-QUIZES\TE09\LTspice\COMP\CompHisterese.asc
V1 Vpp 0 {Vs}
V2 0 Vnn {Vs}
RL Vo 0 {RL}
R2 Vo comp {R2}
R1 comp 0 {R1}
V3 N001 0 SINE(0 {Vi} {fi})
XU1 comp N001 Vpp Vnn Vo level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
.param Vs=15 Vi=20 fi=1k R1=5.6k R2=1.2k RL=100k
.tran 0.01
.meas Vx MAX V(comp)
.meas Vy MIN V(comp)
.lib UniversalOpAmp2.lib
.backanno
.end
