* C:\Users\ruseler\Documents\GitHub\AOS-QUIZES\TE09\LTspice\COMP\CompJanela2.asc
V1 Vpp 0 {Vs}
V2 0 Vnn {Vs}
RL Vpp Vo {RL}
R1 Vpp Vx {R1}
V3 N001 0 SINE(0 {Vi} {fi})
XU1 Vx N001 Vpp Vnn N002 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU2 N001 Vy Vpp Vnn N003 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
D2 Vo N003 Dx
D1 Vo N002 Dx
R2 Vx Vy {R2}
R3 Vy Vnn {R3}
.model D D
.lib C:\Users\ruseler\Documents\LTspiceXVII\lib\cmp\standard.dio
.param Vi=15 Vs=15 fi=1k R1=1k R2=1k R3=1k RL=100k
.tran 0.01
.model Dx D(Vfwd=.7)
.meas Vx AVG(V(Vx))
.meas Vy AVG(V(Vy))
.meas VoMax MAX(V(Vo))
.meas VoMin MIN(V(Vo))
.lib UniversalOpAmp2.lib
.backanno
.end
